Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1.[F:8][C:9]([F:10])([F:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][c:17]1-[c:18]1[n:19][n:20][n:21][nH:22]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1)[n:22]1[c:18](-[c:17]2[c:12]([C:9]([F:8])([F:10])[F:11])[cH:13][cH:14][cH:15][cH:16]2)[n:19][n:20][n:21]1,[F:8][C:9]([F:10])([F:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][c:17]1-[c:18]1[n:19][n:20][n:21][nH:22]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][n:6][cH:7]1)[n:22]1[c:18](-[c:17]2[c:12]([C:9]([F:8])([F:10])[F:11])[cH:13][cH:14][cH:15][cH:16]2)[n:19][n:20][n:21]1,SN2,"[(22, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[cH:2][cH:3][c:4]([CH3:5])[cH:6][c:7]1[N+:8](=[O:9])[O-:10].[CH3:11][N:12]([CH3:13])[CH2:14][CH2:15][NH2:16]>>[c:1]1([NH:16][CH2:15][CH2:14][N:12]([CH3:11])[CH3:13])[cH:2][cH:3][c:4]([CH3:5])[cH:6][c:7]1[N+:8](=[O:9])[O-:10],[Cl:101][c:1]1[cH:2][cH:3][c:4]([CH3:5])[cH:6][c:7]1[N+:8](=[O:9])[OH:10].[CH3:11][N:12]([CH3:13])[CH2:14][CH2:15][NH2:16]>>[c:1]1([NH:16][CH2:15][CH2:14][N:12]([CH3:11])[CH3:13])[cH:2][cH:3][c:4]([CH3:5])[cH:6][c:7]1[N+:8](=[O:9])[OH:10],SNAr(ortho),"[(16, 1), ([1, 7], [7, 8]), ([8, 9], 9), (9, [9, 8]), ([8, 7], [7, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][c:7]([CH2:8][CH2:9][CH2:10][c:11]2[cH:12][cH:13][c:14]([CH2:15][OH:16])[cH:17][cH:18]2)[cH:19][s:20]1>>[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][c:7]([CH2:8][CH2:9][CH2:10][c:11]2[cH:12][cH:13][c:14]([CH:15]=[O:16])[cH:17][cH:18]2)[cH:19][s:20]1,[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][c:7]([CH2:8][CH2:9][CH2:10][c:11]2[cH:12][cH:13][c:14]([CH2:15][OH:16])[cH:17][cH:18]2)[cH:19][s:20]1.[Cl:301][C:302](=[O:303])[C:304](=[O:305])[Cl:306].[CH3:307][S:308](=[O:309])C.CC[N:310](CC)CC>>[CH3:1][C:2](=[O:3])[NH:4][c:5]1[n:6][c:7]([CH2:8][CH2:9][CH2:10][c:11]2[cH:12][cH:13][c:14]([CH:15]=[O:16])[cH:17][cH:18]2)[cH:19][s:20]1,Swern_oxidation,"[([308, 309], 304), ([304, 305], 305), (305, [305, 304]), ([304, 306], 306), (306, 308), ([308, 309], [309, 304]), ([304, 302], 302), ([302, 301], 301), (16, 308), ([308, 306], 306), (306, 16.1), ([16.1, 16], 16), (310, 307.1), ([307.1, 307], 307), (301, 310.1), ([310.1, 310], 310), (307, 15.1), ([15.1, 15], [15, 16]), ([16, 308], 308)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([NH:3][C:4](=[O:5])[CH2:6][c:7]1[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]1)[CH2:15][c:16]1[cH:17][c:18]2[cH:19][cH:20][cH:21][cH:22][c:23]2[nH:24]1)=[O:25].[NH2:26][C@H:27]1[C:28](=[O:29])[NH:30][c:31]2[cH:32][cH:33][cH:34][cH:35][c:36]2[S:37][C@H:38]1[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[C:1]([C@@H:2]([NH:3][C:4](=[O:5])[CH2:6][c:7]1[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]1)[CH2:15][c:16]1[cH:17][c:18]2[cH:19][cH:20][cH:21][cH:22][c:23]2[nH:24]1)(=[O:25])[NH:26][C@@H:27]1[C:28](=[O:29])[NH:30][c:31]2[cH:32][cH:33][cH:34][cH:35][c:36]2[S:37][C@@H:38]1[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,[OH:101][C:1]([C@@H:2]([NH:3][C:4](=[O:5])[CH2:6][c:7]1[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]1)[CH2:15][c:16]1[cH:17][c:18]2[cH:19][cH:20][cH:21][cH:22][c:23]2[nH:24]1)=[O:25].[NH2:26][C@H:27]1[C:28](=[O:29])[NH:30][c:31]2[cH:32][cH:33][cH:34][cH:35][c:36]2[S:37][C@H:38]1[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([NH:3][C:4](=[O:5])[CH2:6][c:7]1[cH:8][c:9]([F:10])[cH:11][c:12]([F:13])[cH:14]1)[CH2:15][c:16]1[cH:17][c:18]2[cH:19][cH:20][cH:21][cH:22][c:23]2[nH:24]1)(=[O:25])[NH:26][C@@H:27]1[C:28](=[O:29])[NH:30][c:31]2[cH:32][cH:33][cH:34][cH:35][c:36]2[S:37][C@@H:38]1[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 25], 25), (303, 26.1), ([26.1, 26], 26), (25, [25, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
